* Z:\home\agam\Github\EE2301\sims\sim3\bjt_cc.asc
* Generated by LTspice 24.1.7 for Windows.
Q1 N001 N003 N004 0 2N2222
R1 N001 N003 18k
V1 N001 0 10
R2 N003 0 51k
R3 N004 0 470
C1 Vout N004 10µ
R4 Vout 0 470
C2 N003 Vin 1µ
R5 Vin N002 1k
V2 N002 0 SINE(0 1m 10k) AC 1m
.model NPN NPN
.model PNP PNP
.lib C:\users\agam\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac dec 1000 1 100G
* .op
* .tran 0 2m 1m 1u
.backanno
.end
